US08580824B2
To a solution of 4-(2-tert-butoxycarbonyl-vinyl)-3-ethyl-5-methyl-benzoic acid benzyl ester (10.0 g, 26 mmol) in THF 100 mL), Pd/C (0.5 g, 20% Pd) is added under nitrogen. The mixture is stirred at rt for 48 h under 1 bar of H2. The catalyst is filtered off over a celite pad and the filtrate is concentrated to dryness to give 4-(2-tert-butoxycarbonyl-ethyl)-3-ethyl-5-methyl-benzoic acid (7.64 g) as a white solid; 1H NMR δ 1.29 (t, J=7.5 Hz, 3 H), 1.49 (s, 9 H), 2.36-2.41 (m, 2 H), 2.74 (q, J=7.5 Hz, 2 H), 2.99-3.05 (m, 2 H), 7.77 (s, 1 H), 7.80 (s, 1 H).

reactant | 4-(2-tert-butoxycarbonyl-vinyl)-3-ethyl-5-methyl-benzoic acid benzyl ester | 26 mmol, 10.0 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C(=C1)C)C=CC(=O)OC(C)(C)C)CC)=O | C24H28O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-(2-tert-butoxycarbonyl-ethyl)-3-ethyl-5-methyl-benzoic acid | 7.64 g | C(C)(C)(C)OC(=O)CCC1=C(C=C(C(=O)O)C=C1C)CC | C17H24O4
